US08957069B2
1-[4-(Methylsulfanyl)phenyl]-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (1.37 g, 5.0 mmol) synthesized in Reference example 61 and 4-bromothioanisole (1.52 g, 7.5 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 1.2 g (yield 60%). Melting point was 211 to 213° C. (ethanol).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 5.0 mmol, 1.37 g | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 4-bromothioanisole | 7.5 mmol, 1.52 g | BrC1=CC=C(C=C1)SC | C7H7BrS
product | 1-[4-(Methylsulfanyl)phenyl]-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.2 g, yield 60% | CSC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C24H32N2OS
